US07947712B2
7-Allyl-8-(benzyloxy)quinoline
To a stirring solution of 7-allylquinolin-8-ol (14.56 mmol, 1 eq.) in acetone (50 mL) in a round bottom flask equipped with a reflux condenser was added potassium carbonate (151.94 mmol, 10.44 eq.) followed by benzyl bromide (17.47 mmol, 1.2 eq.) and the resulting solution was stirred and heated to reflux for 20 h. Additional potassium carbonate (151.94 mmol, 10.44 eq.) was added followed by additional benzyl bromide (29.12 mmol, 2 eq.) and the resulting mixture was heated at reflux and stirred 2 h. The reaction mixture was then cooled to room temperature and diluted with 50 mL of diethyl ether. The resulting suspension was filtered and the filtrate concentrated to a yellow oil that was purified by column chromatography using 10% acetone/dichloromethane to give the product as a pale yellow oil (10.48 mmol, 72%). MS (ESI) m/z 276.2; HRMS: calcd for C19H17NO+H+, 276.13829; found (ESI-FTMS, [M+H]1+), 276.13828.

reactant | 7-allylquinolin-8-ol | 14.56 mmol, 1 eq. | C(C=C)C1=CC=C2C=CC=NC2=C1O | C12H11NO
reactant | potassium carbonate | 151.94 mmol, 10.44 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 17.47 mmol, 1.2 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 151.94 mmol, 10.44 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 29.12 mmol, 2 eq. | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 7-Allyl-8-(benzyloxy)quinoline | 10.48 mmol, 72% | C(C=C)C1=CC=C2C=CC=NC2=C1OCC1=CC=CC=C1 | C19H17NO
